US08236976B2
Preparation of (S)-4,4-Dimethyl-1-p-tolyl-pent-2-en-1ol (8)
The product was prepared by General procedure S using 98 mg (0.55 mmol) Cy2BH, 68 μL (0.55 mmol) 3,3-dimethyl-1-butyne, 0.55 mL (1.1 mmol, 2.0 M in hexanes) Et2Zn, 4.8 mg (0.02 mmol) (−)-MIB, and 59 μL (0.50 mmol) p-tolualdehyde. The crude product was purified by column chromatography (5% ethyl acetate in hexanes) to afford the title compound as a white solid in 86% yield (88 mg, 0.43 mmol). m.p.: 38-40° C.; [α]D20=+52.7 (c=0.97, CHCl3, 95% ee); 1H NMR (CDCl3, 500 MHz): δ 0.95 (s, 9H), 1.83 (br s, 1H), 2.26 (s, 3H), 5.03 (d, 1H, J=6.7 Hz), 5.47 (dd, 1H, J=15.6, 6.8 Hz), 5.70 (d, 1H, J=15.6 Hz), 7.07 (d, 2H, J=7.7 Hz), and 7.17 (d, 2H, J=7.9 Hz) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 21.1, 29.4, 32.8, 75.2, 126.1, 127.2, 128.1, 137.1, 140.6, and 143.2 ppm; IR (film): 3346, 3023, 2959, 2865, 2361, 2334, 1655, 1613, 1513, 1478, 1461, 1416, 1388, 1362, and 1268 cm−1; HRMS-CI m/z 204.1509 [M+; calcd for C14H20O: 204.1514].

reactant | Cy2BH | 0.55 mmol, 98 mg | B(C1CCCCC1)C1CCCCC1 | C12H23B
reactant | 3,3-dimethyl-1-butyne | 0.55 mmol, 68 μL | CC(C#C)(C)C | C6H10
reactant | Et2Zn | 1.1 mmol, 2.0 M, 0.55 mL | [Zn](CC)CC
reactant | p-tolualdehyde | 0.50 mmol, 59 μL | C1(=CC=C(C=C1)C=O)C | C8H8O
product | (S)-4,4-Dimethyl-1-p-tolyl-pent-2-en-1ol | 86% yield | CC(C=C[C@H](O)C1=CC=C(C=C1)C)(C)C | C14H20O
